US03952031
2α,3α-Epoxy-5α-pregn-16-ene-11,20-dione
To a solution of 5α-pregna- 2,16 -diene-11,20-dione (2.5 g.) in chloroform (50 ml.) was added m-chloroperoxybenzoic acid (85%, 1.8 g.), and the mixture was stirred at room temperature overnight. More chloroform was then added, and the solution was washed with dilute sodium bicarbonate solution and with water, dried over magnesium sulphate and evaporated to an oil which was triturated with ether/petrol to give title compound (1.9 g.) as colourless needles, m.p. 154°-156° , [α]D + 100°.

reactant | 5α-pregna- 2,16 -diene-11,20-dione | 2.5 g | CC(C1=CC[C@H]2[C@@H]3CC[C@H]4CC=CC[C@]4(C)[C@H]3C(C[C@]12C)=O)=O | C21H28O2
reactant | m-chloroperoxybenzoic acid | 1.8 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2α,3α-Epoxy-5α-pregn-16-ene-11,20-dione | 1.9 g | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC=C(C(C)=O)[C@]4(CC([C@@H]3[C@]1(C2)C)=O)C | C21H28O3
